Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
"I would like help with my medication" 
 
Major Surgical or Invasive Procedure:
None. 
 
History of Present Illness:
This is a ___ divorced ___ school ___, 
previously diagnosed with major depressive disorder, s/p one 
prior psychiatric hospitalization and suicide attempt ___ years 
ago, alcohol use disorder on wellbutrin and Prozac who self 
presented to the ED reporting SI with a plan. 
. 
Upon initial interview with ED staff, patient reported that his 
medications do not seem to be helping and has been trying 
different dosages for about a year. Reports had a plan that he 
was going to act on prior to admission via overdose on Benadryl 
and alcohol. Reports his friend stopped him completing the plan. 
Reports he drank last night was his last drink. Denies HI. 
Denies AH/VH. Reports perception of what others say can be 
misperceived. He at one point also requested to leave before 
being evaluated by psychiatry.
. 
Upon interview in the ED, he reports that he has been feeling 
more depressed for a few months now, including difficulty 
sleeping and guilt. Concentration just ok. Other than ___ years 
ago prior to an inpatient admission and just over 24 hours ago, 
he denies having suicidal thoughts in the interim. However, he 
is plagued with replaying the story of his only suicide attempt 
___ years ago and knowing that he is now high risk and "a 
statistic." Feels quite ruminative in this regard. Recent 
stressors include that his car was repossessed 6 days ago due to 
late payments. He is now unable to get to work as a result and 
is contemplating retiring. Also concerned about the therapies 
his ex-wife is putting their daughter though, as he disagrees 
with their utility. His distress over this and anxiety about 
what the future holds are what precipitated his acute SI on the 
evening of ___. He describes coming up with the plan to 
overdose on vodka, ~5mg of Ativan, and >10 tablets of Benadryl, 
which he recently obtained for the purpose of overdosing. He 
eventually talked himself out of it by thinking about his ___ 
year old daughter. The following morning, he disclosed his 
thoughts to his co-worker and roommate, ___. He reports that she 
is a ___ at the school at which they work. She 
they called numerous hospitals in the area attempting to find a 
bed to no avail, so they presented together to ___.
. 
ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints. 
. 
On admission, patient reports feeling well. Denied SI/HI and 
denied feeling significantly depressed. Denied history of mania 
or psychosis, denied significant anxiety. Reported having 
difficulty staying asleep at night. 
.
Psychiatric ROS:
Depression - reports his appetite, energy level, sleep, interest
in activities "are all at their normal level".  He does report
problems maintaining sleep as mentioned above. 
Psychosis - denies symptoms including delusions (persecutory,
grandiose, thought broadcasting/insertion/withdrawal) or
hallucinations (auditory, visual, olfactory, or tactile). 
Mania- denies symptoms including elevated mood or irritability,
marked increases in goal-directed behavior, racing thoughts, a
decreased need for sleep, or social/economic indiscretion
Anxiety - denies symptoms including panic attacks or 
agoraphobia.
  
  

 
Past Medical History:
Past psychiatric history: Per Dr. ___ ( ___, 
confirmed with patient and updated as relevant:
- Diagnoses: Depression
Hospitalizations: Reports one prior hospitalization at ___ ___ 
years ago after a suicide attempt - "a lot of whiskey" and 60 
tablets of Benadryl. This was in the context of just before his 
divorce from his then wife and distress over learning how much 
debt she was in. 
- Current treaters: PCP currently prescribes his meds- does not
have current psychiatrist or therapist. Reports having a
therapist in the past but did not find it particularly helpful
- Medications and ECT trials: Effexor 75mg for ___ years was
"balancing" but he ultimately stopped during his hospitalization
at ___. Denies ECT ___ trials.  Has difficulty stating if his
current regiment is helpful.  Does report history of side 
effects
on higher doses of wellbutrin.  
- Self injurious behaviors: Denies hx of cutting/burning.
- Suicide attempts: see above 
- Harm to others: Denies
- Access to weapons, including firearms: Denies.

Past medical history: Per Dr. ___ ( ___, confirmed
with patient and updated as relevant:
PCP: Dr. ___                                 
-Denies history of head injuries or seizures.

 
Social History:
-Born/raised: Born in ___, moved to ___ at 
the age of ___ and lived there for about ___ years, then family 
moved to ___.
-Education: completed ___ and then 60 additional credits to 
earn a "teacher's scale" which the pt describes is similar to ___ 
PhD
-Employment: ___
-Housing: w roommate & co-worker ___ in ___
-Spirituality/Religion: Denies
-Family members/Supports: his sister and another friend.  His 
mother died from cancer many years ago.  His father has advanced 
dementia living in ___. 
-Relationship Status: reports on and off relationship with his 
roommate ___. 
-Children: one ___ daughter who he sees every other weekend and 
on some weeknights but is not the primary custodian

Substance Use History:
-EtOH - reports drinking about ___ days; 1 beer or 1 glass of 
wine on weeknights; ___ ___ on weekend nights; denies hx of 
blackouts, withdrawals, seizures 
-Tobacco- denies
-MJ- occasionally in HS, not since
-Opiates, including heroin- Denies. Denies IVDU.
-Benzodiazepines- Denies
-Cocaine/Crack- denies 
-Amphetamines- denies
-LSD/PCP/Ecstasy/Mushrooms- denies

FORENSIC HISTORY:Per Dr. ___ ( ___, confirmed with 
patient and updated as relevant:
-Arrests: denies
-Convictions and jail terms: denies
-Current status (pending charges, probation, parole): NA

 
Family History:
-Completed Suicide: maternal cousin struggled with depression, 
anxiety, and substance use; was found dead in his car in an 
airport parking lot ___ years ago; felt to have overdosed 
(intentionally?) and then "cooked to death" in the ___ heat in 
his car. 
-Mental Illness: mother w depression/anxiety

 
Physical Exam:
VS: T: 98.0 , BP: 138/93 , HR: 57 , R: 18 , O2 sat: 96% on RA
General: Middle-aged man in NAD. Well-nourished, well-developed.
Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, non-distended. 
Extremities: no edema or calf tenderness
Skin: warm, dry
 
Neurological:
Cranial Nerves II-XII intact
Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. 
Strength: full power ___ throughout. 
Coordination: Normal on finger to nose test. 
DTRs: 2+ and symmetrical throughout. 
Sensation: Intact to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.
Romberg negative 

Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview
Orientation: oriented to person, time, place, situation
Memory: intact to recent and past history
Fund of knowledge: consistent with education
Calculations: not tested but on ED eval $1.75 = 7 quarters
Abstraction: apple/orange = "fruits"

Speech: normal rate, volume, and tone
Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
Appearance: Age appearing man, somewhat disheveled hair, wearing
glasses with red spandex pants and hospital gown.  No apparent
distress
Behavior: Calm, cooperative, engaged, pleasant, appropriate eye
contact, no psychomotor agitation or retardation
Mood and Affect: "fine" / euthymic, full range, appropriate to
situation, congruent with mood
Thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: denies SI/HI/AH/VH, no evidence of delusions or
paranoia
Judgment and Insight: fair/fair

Discharge Examination: 
VS: BP: 132/89 HR: 61 temp: 98.4 resp: 16 O2 sat: 96% RA

Neurological:
station and gait: stable
tone and strength: normal bulk/tone. moves all extremities 
anti-gravity spontaneously

Appearance: Age appearing man, somewhat disheveled hair, wearing
glasses, appropriately dressed. 
Behavior: Calm, cooperative, engaged, pleasant, appropriate eye
contact, no psychomotor agitation or retardation
Mood and Affect: "good" / euthymic, normal range 
Thought Process: linear, coherent, goal-oriented. No LOA. Future
oriented
Thought Content: denies SI/HI/AH/VH, no evidence of delusions or
paranoia
Judgment and Insight: fair/fair

 
Pertinent Results:
___ 06:37PM   ALT(SGPT)-13 AST(SGOT)-14 ALK PHOS-55 TOT 
BILI-0.3
___ 06:37PM   ALBUMIN-4.2
___ 06:37PM   VIT B12-503 FOLATE-12
___ 06:37PM   TSH-1.9

___ 10:50PM URINE  bnzodzpn-NEG barbitrt-POS* opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:32PM   GLUCOSE-95 UREA N-15 CREAT-1.0 SODIUM-138 
POTASSIUM-4.6 CHLORIDE-102 TOTAL CO2-26 ANION GAP-15
___ 09:32PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:32PM   WBC-8.8 RBC-4.88 HGB-14.1 HCT-43.1 MCV-88 
MCH-28.9 MCHC-32.7 RDW-13.0 RDWSD-42.2
___ 09:32PM   PLT COUNT-___ is a ___ ___ with a 
history of unspecified depression on Wellbutrin and Prozac, 
question of alcohol use disorder,migraines, HLD, and one prior 
inpatient psychiatric hospitalization and suicide attempt ___ 
years ago who self presented to the ED reporting SI with a plan 
to overdose on the evening of ___.  This recent episode of 
distress is in the setting of significant stress including his 
car being repossessed.  

#. Legal/Safety:   
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  He was placed on 15 minute checks 
status on admission and remained on that level of observation 
throughout his hospitalizations.  Mr. ___ did not have any 
behavioral or safety concerns during his admission. 

#. Unspecified depression. 
Mr. ___ is a ___ year old, divorced, middle school ___ 
teacher who presented to the emergency room requesting help with 
his medications after an episode of suicidal ideation with plan 
to overdose.  In the emergency room he described depressive 
symptoms over the last several months including difficulty 
sleeping, guilt, and impaired concentration.  He has had 
multiple social stressors including his car being repossessed 
that led to him becoming suicidal.  On his admission interview, 
however, Mr. ___ appeared euthymic with full range of affect.  
He denied any significant depressive symptoms and reported his 
trouble sleeping has been going on for many years (separate from 
depression).  He states that thinking of his daughter and the 
ramifications of his death on her is what stopped him from 
attempting suicide.  On initial interview and every subsequent 
interview, Mr. ___ denied suicidal ideation.  He described his 
mood as good and from the beginning he was very self-motivated 
and proactive about plans for after discharge.  For medications, 
he was continued on Wellbutrin 200mg daily.  We uptitrated his 
Prozac to 20mg daily (from 10mg) which he tolerated well and 
reported no side effects.  We also started Trazodone 25mg QHS to 
help with insomnia.  He reported improved sleep with the 
Trazodone making it easier for him to fall back to sleep after 
episodes of waking up throughout the night.   

The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills.
 

#. Alcohol Use disorder
On initial screen ___ reported periods of thinking about 
cutting back on his drinking as well as discussions with his 
ex-wife around his drinking.  He denied ever having withdrawal 
symptoms from alcohol use or drinking prior to work/eye openers. 
 Mr. ___ did not show any objective signs of alcohol 
withdrawal while admitted.  He self discovered the association 
between his alcohol use and when he becomes suicidal.  We 
discussed options for further treatment upon discharge including 
attending recovery meetings like ___ or ___ to which 
he was very receptive and interested in doing. 

#.  Hyperlipidemia
Mr. ___ has history of high cholesterol and takes Crestor 10mg 
QHS as prescribed by his primary care physician.  We continued 
this medication with no issue. 

#. COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Mr. ___ gave permission to speak with ___, his roommate upon 
admission.  We discussed her impression of how ___ was doing.  
Reiterated that he could no longer return to live with her after 
this admission. Patient was informed of this and planned on 
staying with another friend in ___ upon discharge with 
plan to follow up with a partial program for further evaluation 
and treatment. 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting trazodone, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I 
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

Risk Assessment:
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based on the following risk 
factors: static factors- prior suicide attempt, male sex, 
divorced/single status and family history of suicide.  
Modifiable risk factors noted on admission included sense of 
isolation, active substance misuse, acute mood symptoms, limited 
outpatient support, SI prior to presentation.  To address the 
sense of isolation we arranged a partial hospital program to 
encourage socialization as well as to help establish outpatient 
providers.  The patient also arranged to stay with a friend and 
her family upon discharge.  His mood symptoms resolved during 
admission and we addressed the limited outpatient support by 
once again arranging the partial hospital program.   Finally, 
the patient is being discharged with many protective risk 
factors, including his strong desire to live for his ___ year old 
daughter, his future orientation, developed good coping skills 
through group work, lack of suicidal ideation, improved social 
connection, and good reality testing ability.  Overall, based on 
the totality of our assessment at this time, the patient is not 
at an acutely elevated risk of self-harm nor danger to others.  
Our Prognosis of this patient is fair.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 10 mg PO DAILY 
2. BuPROPion (Sustained Release) 200 mg PO QAM 
3. Rosuvastatin Calcium 10 mg PO QPM 
4. butalbital-aspirin-caffeine 50-325-40 mg oral prn 

 
Discharge Medications:
1.  TraZODone 25 mg PO QHS 
RX *trazodone 50 mg 0.5 (One half) tablet(s) by mouth at bedtime 
Disp #*10 Tablet Refills:*0 
2.  FLUoxetine 20 mg PO DAILY 
RX *fluoxetine 20 mg 1 capsule(s) by mouth daily Disp #*15 
Capsule Refills:*0 
3.  BuPROPion (Sustained Release) 200 mg PO QAM  
4.  Rosuvastatin Calcium 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified depression 
Alcohol use disorder

 
Discharge Condition:
VS:  BP: 132/89 HR: 61 temp: 98.4 resp: 16 O2 sat: 96% RA
 
Neurological:
station and gait: stable
tone and strength: normal bulk/tone. moves all extremities 
anti-gravity spontaneously
    
Appearance: Age appearing man, somewhat disheveled hair, wearing
glasses, appropriately dressed.  
Behavior: Calm, cooperative, engaged, pleasant, appropriate eye
contact, no psychomotor agitation or retardation
Mood and Affect: 'good' / euthymic, normal range 
Thought Process: linear, coherent, goal-oriented. No LOA. Future
oriented
Thought Content: denies SI/HI/AH/VH, no evidence of delusions or
paranoia
Judgment and Insight: fair/fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___